* source EXERCISE_1
R_R1         N00560 N00491  10R TC=0,0 
R_R2         0 N00491  10R TC=0,0 
V_V1         N00560 0 10Vdc
C_C1         0 N00491  1n  TC=0,0 
